US04225598
133 g of cyanuric chloride are suspended in 720 ml of chlorobenzene and cooled to -10° C. To this suspension are added with stirring 50 ml of cyclopropylamine dropwise over a period of 25 minutes. Keeping the temperature at -10° C., 96 ml of aqueous sodium hydroxide (30% NaOH) are added dropwise. The reaction mixture is then stirred at -10° C. for 11/2 hours and allowed to stand for a further 16 hours at room temperature, after which it is washed with water (2×400 ml), dried over anhydrous sodium sulphate and filtered. The excess chlorobenzene is then removed by water jet vacuum distillation. 138 g of 2-cyclopropylamino-4,6-dichloro-s-triazine in the form of white crystals are obtained.

reactant | cyanuric chloride | 133 g | N1=C(Cl)N=C(Cl)N=C1Cl | C3Cl3N3
reactant | cyclopropylamine | 50 ml | C1(CC1)N | C3H7N
reactant | sodium hydroxide | 96 ml | [OH-].[Na+]
solvent | chlorobenzene | 720 ml | ClC1=CC=CC=C1 | C6H5Cl
product | 2-cyclopropylamino-4,6-dichloro-s-triazine | 138 g | C1(CC1)NC1=NC(=NC(=N1)Cl)Cl | C6H6Cl2N4
